US04775671
A suspension of 8.8 g (21.3 mmol) of 1-[[(S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole in 20 ml of N,N-dimethylformamide is treated with 3.6 ml (about 47 mmol) of a 25 percent aqueous ammonia solution and the mixture is stirred at room temperature for 1 hour. The mixture is then poured into 100 ml of water, the product is filtered off under suction after 15 minutes, rinsed with water and dried at 80° in a high vacuum. There is obtained (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide of decomposition point 296°.

reactant | 1-[[(S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 21.3 mmol, 8.8 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14BrN5O2
reactant | ammonia | N | H3N
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N)CCC1)=O | C15H13BrN4O2
